US07696231B2
a) Preparation of tert-butyl 2-{4-[(6-methoxy-6-oxohexanoyl)amino]benzoyl}hydrazinecarboxylate (Compound B of Scheme 2)
To a solution of tert-butyl 2-(4-aminobenzoyl)hydrazinecarboxylate (1.0 g, 3.98 mmol) in anhydrous pyridine (20 mL) was added dropwise methyl 6-chloro-6-oxohexanoate (Fluka) (750 μL) at rt. After 30 min, aminomethyl resin (Polymers Laboratories PL-AMS, 1.96 mmol/g, 970 mg) was added and the resulting mixture was stirred overnight at rt. After filtration and rinsing the resin, water (160 mL) was added into the filtrate and a white solid precipitated out. Filtration and washing with water gave a white solid, which was dried under vacuo at 50° C. for 5 hrs. The title compound (981 mg) was obtained as a white solid (63%) in 99.8% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | tert-butyl 2-(4-aminobenzoyl)hydrazinecarboxylate | 3.98 mmol, 1.0 g | NC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C12H17N3O3
reactant | methyl 6-chloro-6-oxohexanoate | 750 μL | ClC(CCCCC(=O)OC)=O | C7H11ClO3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 2-{4-[(6-methoxy-6-oxohexanoyl)amino]benzoyl}hydrazinecarboxylate | 981 mg | COC(CCCCC(=O)NC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1)=O | C19H27N3O6
